US04443365
A mixture of methyl 2-propyl-6-heptenoate (1.8 g), sodium hydroxide (0.65 g), water (2 ml) and ethanol (100 ml) was heated under reflux for 2 hours. The solvent was removed under reduced pressure and the resulting residue was shaken with water and hexane. The aqueous layer was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was dried and concentrated to give oil of 2-propyl-6-heptenoic acid (1.25 g).

reactant | methyl 2-propyl-6-heptenoate | 1.8 g | C(CC)C(C(=O)OC)CCCC=C | C11H20O2
reactant | sodium hydroxide | 0.65 g | [OH-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-propyl-6-heptenoic acid | 1.25 g | C(CC)C(C(=O)O)CCCC=C | C10H18O2
